US06887896B1
Ethyl (2E,4E,6E)-7-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate (Compound A-158)
Following General Procedure I-1, ethyl 4-(diethoxyphosphoryl)-3-methyl-but-2E-enoate (1.3 g, 4.95 nmol) and (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enal (Compound A-147, 675 mg, 1.65 mmol) were reacted to give the title compound as a colorless oil after purification by column chromatography (silica gel, 2% ethyl acetate in hexane).

reactant | ethyl 4-(diethoxyphosphoryl)-3-methyl-but-2E-enoate | 4.95 nmol, 1.3 g | C(C)OP(=O)(OCC)C/C(=C/C(=O)OCC)/C | C11H21O5P
reactant | (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enal | 1.65 mmol, 675 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=O)/F)/C)OCC | C21H26BrFO2
product | Ethyl (2E,4E,6E)-7-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/C)OCC | C28H36BrFO3
